US07511144B2
Into a solution of 3.0 g (20.8 mmol) of tetrahydropyran-4-carboxylic acid methyl ester (IX-49) in tetrahydrofuran (60 mL) was dropped, at −78° C. under an atmosphere of argon, 12.6 mL (25.2 mmol) of 2 mol/L lithium diisopropylamide in hexane-heptane-ethylbenzene (available from Aldrich), and stirred for 90 minutes. To this solution, 1.84 g (22.9 mmol) of chloromethyl methyl ether was added at −78° C., stirred for 30 minutes, and allowed to warm to −10° C. gradually. Saturated aqueous ammonium chloride solution (30 mL) was added to the reaction mixture and stirred for 10 minutes. Then, the reaction mixture was concentrated under a reduced pressure to about one third of its volume, and the residue was extracted with ethyl acetate. The organic layer was washed with water (twice) and saturated brine successively and dried over anhydrous magnesium sulfate, and the solvent was removed. The obtained residue was purified by medium pressure liquid column chromatography on silica gel (developing solvent: hexane-ethyl acetate) to obtain 1.28 g (yield 32.4%) of 4-methoxymethyltetrahydropyran-4-carboxylic acid methyl ester (IX-168) as colorless liquid. Its physical property is shown below.

reactant | tetrahydropyran-4-carboxylic acid methyl ester | 20.8 mmol, 3.0 g | COC(=O)C1CCOCC1 | C7H12O3
reactant | lithium diisopropylamide | 25.2 mmol, 2 mol/L, 12.6 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | chloromethyl methyl ether | 22.9 mmol, 1.84 g | COCCl | C2H5ClO
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | hexane heptane ethylbenzene | CCCCCC.CCCCCCC.C(C)C1=CC=CC=C1
product | 4-methoxymethyltetrahydropyran-4-carboxylic acid methyl ester | 1.28 g, yield 32.4% | COC(=O)C1(CCOCC1)COC | C9H16O4
